US04236912
The disodium salt of 2-(4-hydroxyphenoxy)propionic acid was made by dissolving the acid (9.1 gm, 0.05 mole) in 50 ml of DMSO and adding a solution of sodium hydroxide (4.4 gm, 0.11 mole) in 13 ml of water. The mixture was stirred for 30 min. and warmed to 55° C. at which time a solution of 2-chloroquinoline (8.2 gm, 0.050 mole) in 20 ml of DMSO was added. The reaction mixture was heated at 97°-108° for 1.5 hr. and then at 122°-125° for one hour longer. At the end of this time the mixture was poured into 600 ml of cold water and acidified. It was allowed to stand until solids formed which were taken up in toluene. From this 6.5 gm of 2-(4-(2-quinolinyloxy)phenoxy)propanoic acid were obtained.

reactant | disodium | [Na][Na] | 2Na
reactant | 2-(4-hydroxyphenoxy)propionic acid | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | sodium hydroxide | 0.11 mole, 4.4 gm | [OH-].[Na+]
reactant | 2-chloroquinoline | 0.050 mole, 8.2 gm | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | 13 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 600 ml | O | H2O
product | 2-(4-(2-quinolinyloxy)phenoxy)propanoic acid | 6.5 gm | N1=C(C=CC2=CC=CC=C12)OC1=CC=C(OC(C(=O)O)C)C=C1 | C18H15NO4
